US04343808
The compound 4-methylthio-m-tolyloxyacetonitrile was prepared substantially as described in previous examples by heating a mixture of 55.0 g of 4-methylthio-m-cresol, 30 g of chloroacetonitrile, 70.7 g of anhydrous K2CO3 and 104 ml of DMSO, which gave 66.0 g of the compound as a reddish oil.

reactant | 4-methylthio-m-cresol | 55.0 g | CC=1C(=CC(=CC1)S)C | C8H10S
reactant | chloroacetonitrile | 30 g | ClCC#N | C2H2ClN
reactant | K2CO3 | 70.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMSO | 104 ml | CS(=O)C | C2H6OS
product | 4-methylthio-m-tolyloxyacetonitrile | CSC1=C(C=C(C=C1)C)OCC#N | C10H11NOS
